US04045560
A mixture of 9-(3-oxo-2-morpholinylmethyl)-9,10-dihydro-9,10-methanoanthracene (100 mg) and lithium aluminum hydride (50 mg) in dioxane was stirred at 60° - 70° C. for 3 hours. Excess lithium aluminum hydride was decomposed by addition of water. The reaction mixture was diluted with ethyl acetate, dried over anhydrous sodium sulfate and evaporated to dryness to give 9-(2-morpholinylmethyl)-9,10-dihydro-9,10-methanoanthracene, M.P. 183° - 189° C. Recrystallization gave colorless crystals, M.P. 189° - 190° C.

reactant | 9-(3-oxo-2-morpholinylmethyl)-9,10-dihydro-9,10-methanoanthracene | 100 mg | O=C1NCCOC1CC12C3=CC=CC=C3C(C=3C=CC=CC13)C2 | C20H19NO2
reactant | lithium aluminum hydride | 50 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 9-(2-morpholinylmethyl)-9,10-dihydro-9,10-methanoanthracene | N1CC(OCC1)CC12C3=CC=CC=C3C(C=3C=CC=CC13)C2 | C20H21NO
